US06599902B2
Synthesis of 5-Formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (Pyrrole Aldehyde-1)
Ethyl-3-oxobutyrate (130 g, 1 mol) was dissolved in 400 mL of acetic acid in a 2 L 3-neck round bottom flask equipped with a thermometer, an addition funnel, mechanical stirring and placed in an oil bath. Zinc dust (50 g, 0.76 mol) was added and the mixture heated to 60° C. with stirring. The crude t-butyl-2-hydroximino-3-oxobutyrate solution prepared above was cautiously added keeping the temperature at about 65° C. by slowing the addition and cooling the flask. More zinc dust (4×50 g, 3.06 mol) was added in portions during the addition with the last portion added after all the t-butyl ester had been added. The temperature of the mixture reached a maximum of 80° C. At the end of the additions the temperature was 64° C. The temperature was increased by heating to 70-75° C. for one hour and then poured into 5 L of water. The gray floating precipitate was collected by vacuum filtration and washed with 2 L of water to give 354 g of wet crude product. The crude product was dissolved in 1 L of hot methanol and hot filtered to remove zinc. The filtrate was cooled to give a precipitate that was collected by vacuum filtration to give 118 g of product. The filtrate was put in the refrigerator overnight to give a total of 173.2 g of

reactant | Ethyl-3-oxobutyrate | 1 mol, 130 g | C(C)OC(CC(C)=O)=O | C6H10O3
reactant | t-butyl-2-hydroximino-3-oxobutyrate | C(C)(C)(C)OC(C(C(C)=O)=NO)=O | C8H13NO4
reactant | water | 5 L | O | H2O
solvent | acetic acid | 400 mL | C(C)(=O)O | C2H4O2
catalyst | Zinc | 0.76 mol, 50 g | [Zn] | Zn
catalyst | zinc | 3.06 mol, 50 g | [Zn] | Zn
product | 5-Formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid | 354 g | C(=O)C1=C(C(=C(N1)C)C(=O)O)C | C8H9NO3
